US05302718
Isobutyl 2-hydroxy-5-[2-[4-[(2-pyridinylamino)sulfonyl]phenyl]ethenyl]benzoate
Palladium (II) acetate (0. 15 g, 0.67 mmol) was added to a stirred solution of isobutyl 5-ethenyl-2-hydroxybenzoate (6.6g, 30 mmol) and 4-iodo-N-2-pyridinylbenzenesulfonamide (10.8 g, 30 mmol) in dimethylacetamide (40ml) and tributylamine (10 ml, 42 mmol) at 95° C. After 100 min. the solution was filtered and evaporated at 50°-60° C. (bath temp.) until solid material appeared. The mixture was diluted with isopropanol (0.5 l) and chilled in a freezer. The product was filtered off to yield 7.1 g (52%).

reactant | isobutyl 5-ethenyl-2-hydroxybenzoate | 30 mmol, 6.6g | C(=C)C=1C=CC(=C(C(=O)OCC(C)C)C1)O | C13H16O3
reactant | 4-iodo-N-2-pyridinylbenzenesulfonamide | 30 mmol, 10.8 g | IC1=CC=C(C=C1)S(=O)(=O)NC1=NC=CC=C1 | C11H9IN2O2S
reactant | tributylamine | 42 mmol, 10 ml | C(CCC)N(CCCC)CCCC | C12H27N
solvent | dimethylacetamide | 40ml | CC(=O)N(C)C | C4H9NO
catalyst | Palladium (II) acetate | 0.67 mmol, 15 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Isobutyl 2-hydroxy-5-[2-[4-[(2-pyridinylamino)sulfonyl]phenyl]ethenyl]benzoate | OC1=C(C(=O)OCC(C)C)C=C(C=C1)C=CC1=CC=C(C=C1)S(=O)(=O)NC1=NC=CC=C1 | C24H24N2O5S
